US04163801
4-Chloro-2,6-bis(5-fluoro-2-hydroxybenzyl)phenol (1)
A mixture of 4-chloro-2,6-bis(hydroxymethyl)phenol (4.8 g), 4-fluorophenol (16.0 g), benzene (25 ml) and hydrochloric acid (5 drops) was heated on a boiling water bath until all the benzene had evaporated. On cooling the mixture deposited colourless crystals of 4-chloro-2,6-bis(5-fluoro-2-hydroxybenzyl)phenol (11.9 g), mp 228° C.

reactant | 4-chloro-2,6-bis(hydroxymethyl)phenol | 4.8 g | ClC1=CC(=C(C(=C1)CO)O)CO | C8H9ClO3
reactant | 4-fluorophenol | 16.0 g | FC1=CC=C(C=C1)O | C6H5FO
catalyst | hydrochloric acid | 5 drops | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 4-Chloro-2,6-bis(5-fluoro-2-hydroxybenzyl)phenol | ClC1=CC(=C(C(=C1)CC1=C(C=CC(=C1)F)O)O)CC1=C(C=CC(=C1)F)O | C20H15ClF2O3
